US08119661B2
Step D. The preparation of ethyl 4-[4-[[(1S,2S)-2-aminocyclohexyl]amino]-1-piperidyl]-4-methyl-piperidine-1-carboxylate
To a solution ethyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate (336 mg, 1.25 mmol) and (1S,2S)-cyclohexane-1,2-diamine (286 mg, 0.5 mmol) in dichloromethane (10 mL) was added sodium triacetoxyborohydride (398 mg, 1.88 mmol) and stirred at room temperature for 12 h. Saturated NaHCO3 (5 mL) was added, the phases were separated and the aqueous phase was extracted with dichloromethane (2×10 mL). The combined organic phases were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by passing through a short silica gel pad (5-10% MeOH in dichloromethane) to afford the title compound (87 mg, 19%). MS (M+1): 367.31.

reactant | ethyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate | 1.25 mmol, 336 mg | CC1(CCN(CC1)C(=O)OCC)N1CCC(CC1)=O | C14H24N2O3
reactant | (1S,2S)-cyclohexane-1,2-diamine | 0.5 mmol, 286 mg | [C@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | sodium triacetoxyborohydride | 1.88 mmol, 398 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 4-[4-[[(1S,2S)-2-aminocyclohexyl]amino]-1-piperidyl]-4-methyl-piperidine-1-carboxylate | 87 mg, 19% | N[C@@H]1[C@H](CCCC1)NC1CCN(CC1)C1(CCN(CC1)C(=O)OCC)C | C20H38N4O2
